US07666888B2
3-phenyl-1-{[5-(1-phenylethyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-ol
A solution of 5-(1-phenylethyl)isoxazole-4-carboxylic acid (11 mg, 0.05 mmol) TBTU (19 mg, 0.06 mmol, 1,2 equ.) and N-ethyl-N-isopropylpropan-2-amine (26 μL, 0.15 mmol, 3 equ) in DMF (0.3 mL) was added to 3-phenylpyrrolidine hydrochloride (10 mg, 0.05 mmol) and the reaction mixture was left at rt for 2 h. The solvent was evaporated and the crude product was purified by RP-HPLC. After evaporation of the solvents the product was dried in vacuum to yield the title compound (5 mg). MS (ESI, pos. ion) m/z calcd for C22H22N2O3: 362.1630, found 362.1627.

reactant | 5-(1-phenylethyl)isoxazole-4-carboxylic acid | 0.05 mmol, 11 mg | C1(=CC=CC=C1)C(C)C1=C(C=NO1)C(=O)O | C12H11NO3
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.15 mmol, 26 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-phenylpyrrolidine hydrochloride | 0.05 mmol, 10 mg | Cl.C1(=CC=CC=C1)C1CNCC1
reactant | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 3-phenyl-1-{[5-(1-phenylethyl)isoxazol-4-yl]carbonyl}pyrrolidin-3-ol | 5 mg | C1(=CC=CC=C1)C1(CN(CC1)C(=O)C=1C=NOC1C(C)C1=CC=CC=C1)O | C22H22N2O3
